US04404206
2-[3-carboxy 2-(RS) methylpropionyl] 3-(S) carboxy 1,2,3,4-tetrahydroisoquinoline
Using the method described in example 8, beginning from 3-carbomethoxy 2-(RS) methylpropionic chloride and 3-(RS) carbomethoxy 1,2,3,4-tetrahydro isoquinoline, the following are obtained successively:

reactant | 3-carbomethoxy 2-(RS) methylpropionic chloride | C(=O)(OC)CC(C(=O)Cl)C | C6H9ClO3
reactant | 3-(RS) carbomethoxy 1,2,3,4-tetrahydro isoquinoline | C(=O)(OC)C1NCC2=CC=CC=C2C1 | C11H13NO2
product | 2-[3-carboxy 2-(RS) methylpropionyl] 3-(S) carboxy 1,2,3,4-tetrahydroisoquinoline | C(=O)(O)CC(C(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O)C | C15H17NO5
